US04144338
N-(2-Dimethylaminoethyl)-N-(2-pyrazinyl)cyanamide (2.83 g., 0.015 mole) is dissolved in 20 ml of 6N hydrochloric acid. After one hour, the mixture is made alkaline with concentrated sodium hydroxide and concentrated. The residue is extracted with ether which is concentrated. The residue is crystallized from butyl chloride and N-(2-dimethylaminoethyl)-N-(2-pyrazinyl)urea melting at 105°-108° C. is obtained.

reactant | N-(2-Dimethylaminoethyl)-N-(2-pyrazinyl)cyanamide | 0.015 mole, 2.83 g | CN(CCN(C#N)C1=NC=CN=C1)C | C9H13N5
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hydrochloric acid | 6N, 20 ml | Cl | ClH
product | N-(2-dimethylaminoethyl)-N-(2-pyrazinyl)urea | CN(CCN(C(=O)N)C1=NC=CN=C1)C | C9H15N5O
